US07192968B2
4,6-Dihydro-5H-pyrrolo[3,4-d]thiazole hydrobromide
A mixture of 5-(benzenesulfonyl)-4,6-dihydro-5H-pyrrolo[3,4-d]thiazole (800 mg), phenol (800 μl) and 47% hydrobromic acid (5.00 ml) was heated under reflux for 2 hours. After the reaction mixture was cooled to room temperature, ethyl acetate and water were added to conduct liquid separation. The-resultant water layer was concentrated under reduced pressure. Ethyl acetate was added to the residue, colorless powder deposited was collected by filtration to obtain the title compound (521 mg).

reactant | 5-(benzenesulfonyl)-4,6-dihydro-5H-pyrrolo[3,4-d]thiazole | 800 mg | C1(=CC=CC=C1)S(=O)(=O)N1CC=2N=CSC2C1 | C11H10N2O2S2
reactant | phenol | 800 μl | C1(=CC=CC=C1)O | C6H6O
reactant | hydrobromic acid | 5.00 ml | Br | BrH
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 4,6-Dihydro-5H-pyrrolo[3,4-d]thiazole hydrobromide | 521 mg | Br.S1C=NC2=C1CNC2 | InChI=1S/C5H6N2S.BrH/c1-4-5(2-6-1)8-3-7-4;/h3,6H,1-2H2;1H
